US06596470B2
1.0 g of 5-butylbenzotriazole, 0.24 g of sodium hydroxide, and 25 g of phthalated gelatin were dissolved in 700 mL of water. The solution was kept at 60° C. and stirred. Then, to the resulting solution were added a solution prepared by dissolving 5 g of 5-butylbenzotriazole and 1.2 g of sodium hydroxide in 150 mL of water and a solution prepared by dissolving 5 g of silver nitrate in 150 mL of water, simultaneously, over a period of 4 minutes. The resulting solution was stirred for 5 minutes. After that, to the solution were added a solution prepared by dissolving 5 g of 5-butylbenzotriazole and 1.2 g of sodium hydroxide in 150 mL of water and a solution prepared by dissolving 5 g of silver nitrate in 150 mL of water, simultaneously, over a period of 6 minutes. The pH of the resulting emulsion was adjusted so as to cause precipitation and excess salt was removed. After that, the pH was adjusted to 6.0, and a silver 5-butylbenzotriazole emulsion in an yield of 470 g was obtained.

reactant | 5-butylbenzotriazole | 1.0 g | C(CCC)C1=CC2=C(NN=N2)C=C1 | C10H13N3
reactant | sodium hydroxide | 0.24 g | [OH-].[Na+]
reactant | 5-butylbenzotriazole | 5 g | C(CCC)C1=CC2=C(NN=N2)C=C1 | C10H13N3
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | silver nitrate | 5 g | [N+](=O)([O-])[O-].[Ag+]
reactant | 5-butylbenzotriazole | 5 g | C(CCC)C1=CC2=C(NN=N2)C=C1 | C10H13N3
reactant | sodium hydroxide | 1.2 g | [OH-].[Na+]
reactant | silver nitrate | 5 g | [N+](=O)([O-])[O-].[Ag+]
solvent | water | 700 mL | O | H2O
solvent | water | 150 mL | O | H2O
solvent | water | 150 mL | O | H2O
solvent | water | 150 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | silver 5-butylbenzotriazole | C(CCC)C1=CC2=C(NN=N2)C=C1.[Ag] | InChI=1S/C10H13N3.Ag/c1-2-3-4-8-5-6-9-10(7-8)12-13-11-9;/h5-7H,2-4H2,1H3,(H,11,12,13);
